US07598423B2
Synthesis of 4-[3-(4-acetyl-2-chloro-3-hydroxy-phenoxymethyl)-[1,2,4]oxadiazol-5-ylmethyl]-benzoic acid ethyl ester
Add polymer support PPh3 (287 mg, 0.86 mmol to a solution of 4-(3-hydroxymethyl-[1,2,4]oxadiazol-5-ylmethyl)-benzoic acid ethyl ester (80 mg, 0.41 mmol) in anhydrous CH2Cl2 (8 mL) under argon gas at room temperature. Add 1-(3-chloro-2,4-dihydroxy-phenyl)-ethanone (115 mg, 0.62 mmol) to the mixture, followed by diisopropyl azodicarboxylate (194 μL, 0.86 mmol). After 1.5 hours at room temperature, remove the polymer by filtration and concentrate the filtrate. Purify the residue by flash column chromatography using 30% ethyl acetate/hexane to give the title compound (60 mg, 34%). LC-MS (m/e): 429 (M−1).

reactant | PPh3 | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 4-(3-hydroxymethyl-[1,2,4]oxadiazol-5-ylmethyl)-benzoic acid ethyl ester | 0.41 mmol, 80 mg | C(C)OC(C1=CC=C(C=C1)CC1=NC(=NO1)CO)=O | C13H14N2O4
reactant | 1-(3-chloro-2,4-dihydroxy-phenyl)-ethanone | 0.62 mmol, 115 mg | ClC=1C(=C(C=CC1O)C(C)=O)O | C8H7ClO3
reactant | diisopropyl azodicarboxylate | 0.86 mmol, 194 μL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | 4-[3-(4-acetyl-2-chloro-3-hydroxy-phenoxymethyl)-[1,2,4]oxadiazol-5-ylmethyl]-benzoic acid ethyl ester | 60 mg, 34% | C(C)OC(C1=CC=C(C=C1)CC1=NC(=NO1)COC1=C(C(=C(C=C1)C(C)=O)O)Cl)=O | C21H19ClN2O6
